US06545017B1
Triethylamine (0.07 mL, 0.5 mmol) was added to a solution of 1-(4-aminobutyl)-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine (150 mg, 0.5 mmol) in dichloromethane (160 mL). The reaction mixture was cooled in an ice bath. Methanesulfonic anhydride (90 mg, 0.5 mmol) was added and the reaction mixture was removed from the ice bath. The reaction mixture was stirred for 35 minutes. The reaction mixture was washed three times with water, concentrated under reduced pressure, and triturated with a minimum volume of methyl acetate. The resulting crystalline solid was isolated by filtration and then dried in an Abderhalden drying apparatus to provide 94 mg of N-[4-(4-amino-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide, m.p. 130-130.5° C. Analysis: Calculated for C17H29N5O2S: %C, 55.56; %H, 7.95; %N, 19.06; Found: %C, 55.37; %H, 7.89; %N, 18.03.

reactant | Triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminobutyl)-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.5 mmol, 150 mg | NCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCCC | C16H27N5
reactant | Methanesulfonic anhydride | 0.5 mmol, 90 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | N-[4-(4-amino-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide | 94 mg | NC1=NC(=C(C2=C1N=C(N2CCCCNS(=O)(=O)C)CCCC)C)C | C17H29N5O2S
